US07655666B2
N-[2,4-Dioxo-6-(tetrahydro-furan-2-yl)-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
A solution of 2-amino-5-(tetrahydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester (2 g, 6.91 mmol) in anhydrous THF (30 mL) was treated with (CCl3O)2CO (684 mg, 2.28 mmol). The resultant yellow solution was stirred at r.t. for 15 min and Et3N (967 uL, 6.91 mmol) was then added. A thick suspension developed that was diluted with anhydrous THF (20 mL). The suspension was stirred for 3 h at r.t. CH3SO2NHNH2 (777 mg, 6.91 mmol) was added and the reaction was stirred for 1 h. The reaction mixture was then treated with aq NaOH (1 N, 14 mL, 14 mmol) and the resultant orange-red solution was stirred for 1 h at r.t. The reaction mixture was acidified to pH 3-4 with aq HCl (4 N) and extracted with EtOAc. The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The residue was taken into DCM and triturated. The colorless suspension was collected by vacuum filtration and further dried in vacuo at 60° C. to give the title product (2.36 g, 87%) as colorless crystals. m.p.: 254-257° C., API-ES: m/z 394 [M+H].

reactant | 2-amino-5-(tetrahydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester | 6.91 mmol, 2 g | COC(C1=C(C=C(C(=C1)C1OCCC1)C(F)(F)F)N)=O | C13H14F3NO3
reactant | Et3N | 6.91 mmol, 967 uL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 6.91 mmol, 777 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 14 mmol, 1 N, 14 mL | [OH-].[Na+]
reactant | HCl | 4 N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[2,4-Dioxo-6-(tetrahydro-furan-2-yl)-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 2.36 g, 87% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C1OCCC1)C(F)(F)F | C14H14F3N3O5S
